US09062070B2
Step A: (3R)-6-ethenyl-3-methyl-3,4-dihydro-1H-isochromen-1-one
A solution of (3R)-6-bromo-3-methyl-3,4-dihydro-1H-isochromen-1-one (2.4 g, 9.96 mmol) and triethylamine (2.78 mL, 19.91 mmol) in EtOH (39.8 mL) was added to a microwave vial containing PdCl2(dppf)-CH2Cl2, (0.406 g, 0.498 mmol) and potassium vinyltrifluoroborate (2.000 g, 14.93 mmol). The contents of the vial were heated to 100° C. for 1 hour after which the mixture was cooled, diluted with chloroform (50 mL) and washed with aqueous ammonium chloride (25 mL). The organic layer was then dried over magnesium sulfate, filtered and the solvent was evaporated under reduced pressure. MPLC purification (15-60% EtOAc/Hex) gave the title compound.

reactant | (3R)-6-bromo-3-methyl-3,4-dihydro-1H-isochromen-1-one | 9.96 mmol, 2.4 g | BrC=1C=C2C[C@H](OC(C2=CC1)=O)C | C10H9BrO2
reactant | triethylamine | 19.91 mmol, 2.78 mL | C(C)N(CC)CC | C6H15N
reactant | potassium vinyltrifluoroborate | 14.93 mmol, 2.000 g | C(=C)[B-](F)(F)F.[K+]
solvent | EtOH | 39.8 mL | CCO | C2H6O
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | PdCl2(dppf) CH2Cl2 | 0.498 mmol, 0.406 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | (3R)-6-ethenyl-3-methyl-3,4-dihydro-1H-isochromen-1-one | C(=C)C=1C=C2C[C@H](OC(C2=CC1)=O)C | C12H12O2
